US06486156B1
(3S)-3-{5-[(Z)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzamido}-5-methylsulfanyl-1-phenyl-2-pentanone
A solution of pentafluorophenyl 5-[(Z)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate (0.25 g, 0.5 mmol), (3S)-5-methylsulfanyl-2-oxo-1-phenylpentan-3amine (0.16 g, 0.6 mmol), 1-hydroxy-7-azabenzotriazole (0.075 g, 0.55 mmol) in DMF (2 ml) was stirred at ambient temperature overnight. After evaporation of the solvent, the residue was taken up in ethyl acetate, washed with 5% sodium hydrogen carbonate and saturated sodium chloride and evaporated to dryness. The residue was then purified by flash chromatography eluting with dichloromethane/ethanol (97/3) to give the title compound which was isolated as the hydrochloride salt by treatment with HCl/ether. Yield: 70%

reactant | pentafluorophenyl 5-[(Z)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate | 0.5 mmol, 0.25 g | N1(C=NC=C1)C\C=C/C=1C=CC(=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C1)CCC1=CC=C(C=C1)F | C27H18F6N2O2
reactant | (3S)-5-methylsulfanyl-2-oxo-1-phenylpentan-3amine | 0.6 mmol, 0.16 g | CSCC[C@@H](C(CC1=CC=CC=C1)=O)N | C12H17NOS
reactant | 1-hydroxy-7-azabenzotriazole | 0.55 mmol, 0.075 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (3S)-3-{5-[(Z)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzamido}-5-methylsulfanyl-1-phenyl-2-pentanone | N1(C=NC=C1)C\C=C/C=1C=CC(=C(C(=O)N[C@H](C(CC2=CC=CC=C2)=O)CCSC)C1)CCC1=CC=C(C=C1)F | C33H34FN3O2S
